US08497381B2
Step 1: [6-Hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid (0.5 g, 1.0 mmol) in MeOH (20 mL) was added hydrogen chloride (4N in 1,4-dioxane; 2 mL), and the reaction was heated to 80° C. for 2 hours. The mixture was then concentrated and worked-up with EtOAc and saturated aqueous NaHCO3 to give the title compound.

reactant | [6-hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | 1.0 mmol, 0.5 g | OC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)CC(=O)O | C26H22F3NO5
reactant | hydrogen chloride | 4N, 2 mL | Cl | ClH
reactant | MeOH | 20 mL | CO | CH4O
product | [6-Hydroxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)O)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C27H24F3NO5
